US04927838
As in Example 111, 1-butyl-3,4-dihydro-6-methoxy-2-naphthalenecarboxaldehyde (3.05 g) and (carbomethoxymethylene)triphenylphosphorane (4.5 g) in dichloromethane (25 mL) was stirred at room temperature for 64 hours. The usual work up furnished 2.9 g of (E)-3-(1-butyl-3,4-dihydro-6-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester as an oil.

reactant | 1-butyl-3,4-dihydro-6-methoxy-2-naphthalenecarboxaldehyde | 3.05 g | C(CCC)C1=C(CCC2=CC(=CC=C12)OC)C=O | C16H20O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 4.5 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E)-3-(1-butyl-3,4-dihydro-6-methoxy-2-naphthalenyl)-2-propenoic acid methyl ester | 2.9 g | COC(\C=C\C1=C(C2=CC=C(C=C2CC1)OC)CCCC)=O | C19H24O3
